US05594021
N-(4-bromo-3-methyl-5-isoxazolyl)-2-[(2-chloro-3,4-methylenedioxyphenoxy)methyl]thiophene-3-sulfonamide was prepared in the same manner as described in Example 1 by reaction of 3-chlorosulfonyl-2-[(2-chloro-3,4-methylenedioxyphenoxy)methyl]thiophene with 5-amino-4-bromo-3-methylisoxazole, 47% yield, m.p. 152°-154° C.

reactant | 3-chlorosulfonyl-2-[(2-chloro-3,4-methylenedioxyphenoxy)methyl]thiophene | ClS(=O)(=O)C1=C(SC=C1)COC1=C(C2=C(C=C1)OCO2)Cl | C12H8Cl2O5S2
reactant | 5-amino-4-bromo-3-methylisoxazole | NC1=C(C(=NO1)C)Br | C4H5BrN2O
product | N-(4-bromo-3-methyl-5-isoxazolyl)-2-[(2-chloro-3,4-methylenedioxyphenoxy)methyl]thiophene-3-sulfonamide | 47% yield | BrC=1C(=NOC1NS(=O)(=O)C1=C(SC=C1)COC1=C(C2=C(C=C1)OCO2)Cl)C | C16H12BrClN2O6S2
